US08981084B2
3-Fluoro-4-(4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)benzonitrile
This compound was synthesized from 3-fluoro-4-(piperazin-1-yl)benzonitrile and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (100 mg, yield 38%). 1H NMR (400 MHz, DMSO-d6) δ 8.17-8.15 (dt, J=6.6 Hz, 1.7 Hz, 1H), 8.09 (s, 1H), 7.75-7.72 (m, 3H), 7.61-7.58 (dd, J=8.5 Hz, 1.5 Hz, 1H), 7.17-7.13 (t, J=8.7 Hz, 1H), 3.81 (m, 2H), 3.52 (m, 2H), 3.19 (m, 4H). MS (ESI) m/z: Calculated for C21H15F4N5O2: 445.12. found: 446.2 (M+H)+

reactant | 3-fluoro-4-(piperazin-1-yl)benzonitrile | FC=1C=C(C#N)C=CC1N1CCNCC1 | C11H12FN3
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 3-Fluoro-4-(4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)benzonitrile | yield 38% | FC=1C=C(C#N)C=CC1N1CCN(CC1)C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O | C21H15F4N5O2
